US05334726
b. 4-Ethyl-2-propyl-1-(3-thenoyl) semicarbazide
A stirred solution of 2.62 g (20.5 mmol) of thiophene-3-carboxylic acid and 2.8 mL (20.0 mmol) of triethylamine in 20 mL of THF was cooled to 5° C. and 2.6 mL (20.0 mmol) of isobutyl chloroformate was added dropwise over 5 minutes. The mixture was stirred at 5° C. for 5 minutes and added to a suspension of the 4-ethyl-2-propyl semicarbazide prepared above in 20 mL of THF at 5° C. This mixture was allowed to warm to room temperature and stirred overnight. The mixture was concentrated to remove most of the solvent, taken up in 75 mL of water and extracted with two 100 mL portions of ethyl acetate. The combined ethyl acetate extracts were washed with 50 mL of 5% aqueous HCl and 50 mL of saturated aqueous sodium bicarbonate (NaHCO3), and dried over MgSO4. Removal of the solvent left 5.30 g of crude 4 -ethyl-2-propyl-1-(3-thenoyl) semicarbazide as an oil.

reactant | thiophene-3-carboxylic acid | 20.5 mmol, 2.62 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | triethylamine | 20.0 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 20.0 mmol, 2.6 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-ethyl-2-propyl semicarbazide | C(C)NC(N(N)CCC)=O | C6H15N3O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Ethyl-2-propyl-1-(3-thenoyl) semicarbazide | C(C)NC(N(NC(C1=CSC=C1)=O)CCC)=O | C11H17N3O2S
